US07211601B2
(2S,4EZ)-1-([1,1′-biphenyl]-3-ylcarbonyl)-N-[(2RS)-2-hydroxy-2-phenyl-ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-3-carboxylic acid, and (1RS)-2-amino-1-phenylethanol, the title compound was obtained in 72% purity by HPLC. MS(ESI+): m/z=458.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-3-carboxylic acid | C1(=CC(=CC=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | (1RS)-2-amino-1-phenylethanol | NCC(O)C1=CC=CC=C1 | C8H11NO
product | (2S,4EZ)-1-([1,1′-biphenyl]-3-ylcarbonyl)-N-[(2RS)-2-hydroxy-2-phenyl-ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | C1(=CC(=CC=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)NCC(C1=CC=CC=C1)O)C1=CC=CC=C1 | C27H27N3O4
